2144-01-20 08:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pulmonary Hypertension
   24 Hour Events:
   - A-line placed on right.
   - Patient with net balanced urine output at 2100 after Lasix gtt at
   10mg/hr and AM Acetazolamide; increased Lasix gtt to 15mg/hr and gave
   Metolazone
   - Deferred restarting Coumadin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-19**] 09:20 PM
   Ciprofloxacin - [**2144-1-20**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-20**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-1-19**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-20**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 84 (61 - 98) bpm
   BP: 100/54(66) {94/44(56) - 123/70(85)} mmHg
   RR: 21 (19 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  1,568 mL
                                                                    735 mL
   PO:
                                                                    220 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,348 mL
                                                                    615 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                  1,460 mL
   Urine:
                                                                  1,245 mL
                                                                  1,460 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -177 mL
                                                                   -725 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.44/49/74/31/7
   PaO2 / FiO2: 93
   Physical Examination
   General: Alert, oriented, flushed and sweaty on med floor, improving in
   MICU with improved temps.  Unchanged dysmorphic features.  Tachypneic
   to 30s.
   HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL, EOMI.
   Neck: Supple, no LAD, JVD difficult to determine given tachypnea with
   access muscle use.
   Lungs: Bibasilar crackles, no wheezes.
   CV: RRR though borderline tachy, S1 with loud P2 and ?splitting, R
   sided impulse present
   Abdomen: +BS, soft, ND, surgical midline incision clean with continued
   serosanguinous drainage at inferior aspect.  no rebound, no guarding,
   mild tenderness to palpation around incision.
   Ext: Warm, well perfused; 2+ DP pulses, trace bilateral LE edema,
   sacral edema, with some abdominal wall edema.
   Neuro: AOx3, CN II-XII grossly intact
   Labs / Radiology
   742 K/uL
   9.5 g/dL
   158 mg/dL
   1.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   31 mg/dL
   98 mEq/L
   139 mEq/L
   30.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2144-1-13**]  03:50 AM
                             [**2144-1-13**]  06:37 PM
                             [**2144-1-14**]  04:01 AM
                             [**2144-1-14**]  05:55 PM
                             [**2144-1-15**]  02:49 AM
                             [**2144-1-19**]  03:34 AM
                             [**2144-1-19**]  08:56 AM
                             [**2144-1-19**]  04:48 PM
                             [**2144-1-20**]  03:46 AM
                             [**2144-1-20**]  04:06 AM
   WBC
   12.0
   10.5
   11.2
   11.3
   7.6
   Hct
   27.5
   27.6
   27.3
   31.6
   30.0
   Plt
   943
   954
   976
   797
   742
   Cr
   1.0
   0.9
   1.0
   0.9
   1.1
   1.3
   1.5
   TropT
   <0.01
   TCO2
   29
   35
   34
   Glucose
   147
   146
   270
   134
   [**Telephone/Fax (2) 10465**]58
   Other labs: PT / PTT / INR:33.0/48.6/3.3, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:20/16, Alk Phos / T Bili:68/0.6,
   Amylase / Lipase:/22, Differential-Neuts:91.0 %, Lymph:5.2 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:203 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Imaging: - Abdominal ultrasound performed; wet read: Anterior abdominal
   wall paramedian fluid collections at the superior aspect of the
   incisional scar measuring up to 7.6 cm on the right and 7.4 cm on the
   left. Internal septations and complex nature may indicate chronic
   nature. Superimposed infection cannot be excluded on this study.
   - CXR: Pending
   Microbiology: Influenza: Negative
   Blood 16-18: NGTD
   C. Diff: Negative
   Assessment and Plan
   41M with severe pulmonary hypertension, history of PE, diastolic CHF,
   and PFO closure, initially admitted to OSH for strangulated hernia, now
   readmitted to MICU for fever, hypoxia, and respiratory distress.
   .
   # Respiratory distress, hypoxia.  Patient with poor baseline
   respiratory status presumably related to pulmonary hypertension, heart
   failure, chronic PE, ?any underlying obstructive disease.  Pulmonary
   following on the floor.  Had reached stable point with worsening O2
   requirements over past 8-12 hours.  New fever at same time.  Likely
   some tachypnea a result of fever.  Also concern for pneumonia (HAP)
   given increasing and change in sputum and cough, fever, slight
   worsening of WBC count.  [**Month (only) 11**] also be volume overloaded with poor
   response to most recent 80 mg IV lasix dose and longstanding volume
   overload, despite meeting I/O goals on floor. BNP elevated.
   - Treatment for HAP as below.
   - Start diuresis with lasix gtt.  Diamox prn for metabolic alkalosis.
   - Check BNP for comparisons to priors.
   - likely with replace Aline for hemodynamic monitoring on gtt plus
   access to frequent ABGs given tenuous respiratory status.
   - Continue high O2 support to minimize hypoxic
   vasoconstriction/pulmonary hypertension.
   - Consideration for RHC/further PA HTN management as below.
   .
   # Fever. s/p recent 8 day course (finished [**1-16**]) of vanc and zosyn for
   HAP.  Denies symptoms of aspiration. Urinalysis negative.  Abd
   Ultrasound with complex paramedian fluid collections, infection can not
   be excluded. C. Diff Negative.  Influenza DFA negative.
   - Vanc, Zosyn Cipro
   - Vanc trough tomorrow dose per level
   - Blood cultures; low threshold to dc PICC.
   - Sputum culture; consider induction given concern for recurrence if
   can't produce.
   - Recheck C.diff if diarrhea.
   - Check abd US given surgery; unable to do CT abd currently given
   respiratory status/inability to lie flat, but would consider this in
   future.
   - restart vanc for GPC coverage, start double gram negative with cipro
   and ?zosyn vs. meropenem.
   .
   # Pulmonary hypertension.  Had elevated mPAPs with PFO closure 6 months
   ago, now likely worse since PFO closure.  Differential includes chronic
   thromboembolic (but no large clot seen on CTA), L to R shunting from
   PFO, idiopathic PAH, diastolic heart failure/L atrial overload).
   Currently with class IV symptoms.  On sildenafil (started at OSH). INR
   supratherapeutic this AM.
   - Continue sildenafil and anticoag for now.  Consideration for increase
   in sildenafil vs. endothelin antagonist pending RHC.
   - Given worsening Renal Function may need to transition to heparin with
   bridge to coumadin.
   - O2 support as above.
   - RHC in the future.
   .
   # Atrial flutter.  s/p cardioversion at outside hospital.  Last course
   in MICU again had aflutter with RVR when sotalol was decreased.
   Currently anticoagulated.
   - Continue therapeutic lovenox.
   - Hold coumadin for now in case of need for any additional procedures
   (RHC).
   .
   # Chronic PE.  Chronically anticoagulated.  Was also on plavix at some
   point with report of ?breakthrough clot on coumadin.  Reports
   hemoptysis on plavix.  Now on ASA plus lovenox. However with worsening
   renal function would consider hold
   - Continuing lovenox, holding coumadin as above.  Ideal anticoagulant
   for long term - lovenox or coumadin given ?coumadin failure.  Consider
   check factor X levels to ensure lovenox thereapeutic, though not
   morbidly obese and with normal renal function so would guess levels as
   expected.
   .
   # Thrombocytosis.  Likely related to acute infection plus post op.
   Stable to improving.
   - Continue to monitor.
   .
   # s/p strangulated hernia repair.  No significant change in pain.
   Having bowel movements.
   - Daily dressing changes.
   - wound care
   - pain control.
   - abdominal US to check for collections; consider CT abdomen.
   .
   # Type II DM.
   - Continue sliding scale.
   .
   # GERD.
   - Continue PPI.
   .
   # FEN: No IVF, replete electrolytes, NPO until respiratory status
   improves, then regular DM/low Na
   # Prophylaxis: therapeutic lovenox.
   # Access: PICC
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO until respiratory status improves.
   Glycemic: ISS
   Lines:
   PICC Line - [**2144-1-11**] 10:52 AM
   Arterial Line - [**2144-1-19**] 12:00 PM
   Prophylaxis:
   DVT: therapeutic lovenox
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2144-01-21 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Surgery felt that the wound was superficial on US. Not in the
   abdomen. Therefore, no need for CT (after he drank the contrast).
   - Surgery swung by in AM; if the collections were infected, there would
   be purulent discharge and he would be sick/the wound would look worse
   with dehiscence, etc; seromas are normal and there is nothing to do.
   - Desaturated to 83% while sleeping last night. Was fine when woken.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-19**] 09:20 PM
   Ciprofloxacin - [**2144-1-20**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-21**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-1-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-21**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 61 (58 - 87) bpm
   BP: 118/61(78) {89/51(64) - 131/78(95)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  2,387 mL
                                                                    257 mL
   PO:
                                                                  1,390 mL
             TF:
   IVF:
                                                                    997 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  3,535 mL
                                                                  1,030 mL
   Urine:
                                                                  3,135 mL
                                                                  1,030 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,148 mL
                                                                   -773 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   General: Alert, oriented. No respiratory distress. Comfortable.
   Conversant.
   HEENT: Sclera anicteric, MMM
   Neck: Supple, no LAD
   Lungs: Bibasilar crackles, occasional wheeze bilaterally
   CV: RRR, S1 with loud P2 and splitting, R sided impulse present
   Abdomen: +BS, soft, ND, surgical midline incision clean with continued
   serosanguinous drainage at inferior aspect.  No rebound, no guarding,
   mild tenderness to palpation around incision which is stable.
   Ext: Warm, well perfused; 2+ DP pulses, trace bilateral LE edema,
   sacral edema, with some abdominal wall edema.
   Neuro: AOx3, CN II-XII grossly intact
   Labs / Radiology
   591 K/uL
   8.9 g/dL
   118 mg/dL
   1.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   29 mg/dL
   95 mEq/L
   137 mEq/L
   28.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2144-1-14**]  05:55 PM
                             [**2144-1-15**]  02:49 AM
                             [**2144-1-19**]  03:34 AM
                             [**2144-1-19**]  08:56 AM
                             [**2144-1-19**]  04:48 PM
                             [**2144-1-20**]  03:46 AM
                             [**2144-1-20**]  04:06 AM
                             [**2144-1-20**]  04:25 PM
                             [**2144-1-20**]  06:00 PM
                             [**2144-1-21**]  05:49 AM
   WBC
   11.2
   11.3
   7.6
   9.5
   Hct
   27.3
   31.6
   30.0
   28.1
   Plt
   [**Telephone/Fax (3) 10477**]91
   Cr
   1.0
   0.9
   1.1
   1.3
   1.5
   1.5
   1.6
   TropT
   <0.01
   TCO2
   35
   34
   Glucose
   [**Telephone/Fax (3) 10478**]58
   172
   158
   157
   150
   118
   Other labs: PT / PTT / INR:23.6/37.9/2.2, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:20/16, Alk Phos / T Bili:68/0.6,
   Amylase / Lipase:/22, Differential-Neuts:91.0 %, Lymph:5.2 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:203 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   - Vancomycin trough 14.2
   - Blood cultures 1/16, [**1-19**], [**1-20**]; preliminary, no growth to date
   - [**1-21**] CXR
 Final read pending; unchanged per our read
   Assessment and Plan
   41M with severe pulmonary hypertension, history of PE, diastolic CHF,
   and PFO closure, initially admitted to OSH for strangulated hernia, now
   readmitted to MICU for fever, hypoxia, and respiratory distress.
   .
   # Respiratory distress, hypoxia.  Patient continuing to improve despite
   episode of desaturation overnight. Patient with poor baseline
   respiratory status presumably related to pulmonary hypertension, heart
   failure, chronic PE. Etiology unclear which led to decompensation on
   the floor. Pneumonia possible given fever, recent cessation of
   antibiotics, however no white count, has not continued to spike. Fluid
   overload also possible given poor response to 80mg IV lasix on the
   floor. New PE also a possibility. BNP elevated.
   - Treatment for HAP as below.
   - Consider start lasix IV bid 40mg; goal -500mL to -1L
   - Consider diamox prn for metabolic alkalosis
   - Consider restart lovenox/heparin/coumadin given therapeutic INR
   - Continue high O2 support to minimize hypoxic
   vasoconstriction/pulmonary hypertension
   - Consideration for RHC/further PA HTN management as below
   .
   # Fever. s/p recent 8 day course (finished [**1-16**]) of vanc and zosyn for
   HAP.  Denies symptoms of aspiration. Urinalysis negative.  Abdominal
   ultrasound with complex paramedian fluid collections; surgery has seen
   patient and notes unlikely infection. C. Diff negative.  Influenza DFA
   negative.
   - Appreciate surgery recommendations
   - Continue vanc/zosyn; hold cipro given elevated INR and QT
   prolongation (vancomycin re- ordered)
   - Continue hold ciprofloxacin as no source
   - Follow vancomycin trough
   - Follow blood cultures; low threshold to d/c PICC
   - Sputum culture; consider induction given concern for recurrence if
   can't produce
   - Recheck C. Diff if diarrhea
   .
   # ARF. Worsening creatinine over past 2 days likely related with
   increased lasix gtt and possible component preload secondary to reduced
   volume.
   - Discontinue lasix gtt
   - Consider start lasix IV bid 40mg; goal -500mL to -1L
   - Consider hold lovenox; bridge with heparin pending decisions about
   right heart cath
   .
   # Pulmonary hypertension.  Had elevated mPAPs with PFO closure 6 months
   ago, now likely worse since PFO closure.  Differential includes chronic
   thromboembolic (but no large clot seen on CTA), L to R shunting from
   PFO, idiopathic PAH, diastolic heart failure/L atrial overload.
   Currently with class IV symptoms.  On sildenafil (started at OSH). INR
   therapeutic at this time.
   - Continue sildenafil
   - Discuss regarding RHC
   - Given worsening renal function may need to transition to heparin with
   bridge to coumadin.
   - O2 support as above
   - Swan catheter for eval of right heart function
   .
   # Atrial flutter. s/p cardioversion at outside hospital.  Had episode
   of repeat atrial flutter with RVR when sotalol was decreased. Currently
   anticoagulated.
   - Consider restart lovenox/coumadin given therapeutic INR
   - Hold coumadin for now in case of need for any additional procedures
   (RHC)
   .
   # Prolonged QT: Most likely secondary to Ciprofloxacin which was
   recently started. Sotalol also may be contributing. QT 438 on [**1-20**] EKG.
   - Continue to follow
   .
   # Chronic PE: Supratherapeutic INR. Will hold lovenox given worsening
   renal function. Will allow INR to fall with hopes for RHC in near
   future.
   - Monitor INR
   - Restart coumadin s/p RHC
   .
   # Thrombocytosis.  Likely related to acute infection plus post op.
   Stable to improving.
   - Continue to monitor
   .
   # s/p strangulated hernia repair.  No significant change in pain.
   Having bowel movements.
   - Continue daily dressing changes, wound care
   - Continue pain control prn
   - Appreciate surgery recommendations
   .
   # Type II DM.
   - Continue sliding scale.
   .
   # GERD.
   - Continue PPI.
   .
   # FEN: No IVF, replete electrolytes, regular DM/low Na; NPO for
   possible procedure
   # Prophylaxis: Pneumoboots
   # Access: PICC
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-1-11**] 10:52 AM
   Arterial Line - [**2144-1-19**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-21 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, pulmonary hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM --> on 50-70% high flow
   24 Hour Events:
 EKG - At [**2144-1-20**] 12:00 PM
 WOUND CULTURE - At [**2144-1-20**] 12:00 PM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-19**] 09:20 PM
   Ciprofloxacin - [**2144-1-20**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-1-21**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 52 (51 - 87) bpm
   BP: 114/60(76) {99/51(67) - 131/78(95)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 87.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  2,387 mL
                                                                    277 mL
   PO:
                                                                  1,390 mL
             TF:
   IVF:
                                                                    997 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  3,535 mL
                                                                  1,430 mL
   Urine:
                                                                  3,135 mL
                                                                  1,430 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,148 mL
                                                                 -1,153 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), JVP not elevated. no RV
   heave
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   8.9 g/dL
   591 K/uL
   118 mg/dL
   1.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   29 mg/dL
   95 mEq/L
   137 mEq/L
   28.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2144-1-14**]  05:55 PM
                             [**2144-1-15**]  02:49 AM
                             [**2144-1-19**]  03:34 AM
                             [**2144-1-19**]  08:56 AM
                             [**2144-1-19**]  04:48 PM
                             [**2144-1-20**]  03:46 AM
                             [**2144-1-20**]  04:06 AM
                             [**2144-1-20**]  04:25 PM
                             [**2144-1-20**]  06:00 PM
                             [**2144-1-21**]  05:49 AM
   WBC
   11.2
   11.3
   7.6
   9.5
   Hct
   27.3
   31.6
   30.0
   28.1
   Plt
   [**Telephone/Fax (3) 10477**]91
   Cr
   1.0
   0.9
   1.1
   1.3
   1.5
   1.5
   1.6
   TropT
   <0.01
   TCO2
   35
   34
   Glucose
   [**Telephone/Fax (3) 10478**]58
   172
   158
   157
   150
   118
   Other labs: PT / PTT / INR:23.6/37.9/2.2, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:20/16, Alk Phos / T Bili:68/0.6,
   Amylase / Lipase:/22, Differential-Neuts:91.0 %, Lymph:5.2 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:203 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O HERNIA, OTHER
 COAGULOPATHY
 EDEMA, PERIPHERAL
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   41M PFO / repair (approx 6 mos ago) found to have PA mean 47mm Hg on
   RHC, known h/o multiple DVT so presumed CTEPHTN. This hospitalization
   p/w strangulated hernia s/p hernia repair c/b a flutter and
   cardioversion, slow vent wean, ongoing hypoxemia / respiratory
   distress. Diuresed. CTA showed CTEPHTN, though small, subsegmental
   thrombi. Atrial flutter with sotalol dose reduction - back on stable
   dose.  Left MICU [**1-15**], readmitted overnight [**1-18**].
   1. Respiratory Failure: Continues on 50-70% high flow mask but
   maintaining oxygeantion on that.  Responding to diuresis - Cr now up.
   Will switch Lasix to 20mg [**Hospital1 **] from the gtt.  Hold off on PA Cath for
   the moment.  Cont sildenafil.
   2. Chronic PEs: Restart heparin when INR < 2.
   3. Fevers: Cont vanc/zosyn -> will set 8 day course
   4.A-flutter: COnt sotolol, follow EKG
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-1-11**] 10:52 AM
   Arterial Line - [**2144-1-19**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, therapeutic INR)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2144-01-22 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Decided no SWAN catheter at this time. Reassess RHC in AM.
   - Case Management: No insurance currently, in the process of getting
   MASS HEALTH. No options until covered.
   - Coags: INR 2.2, will wait to start coumadin
   - Lasix 20mg IV BID
   - Pt bradycardic (40s) Sotalol decreased to once daily given [**Last Name (un) 2406**]
   - Vanc trough ordered for AM
   - Desats to 85s overnight that resolved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-1-20**] 04:00 AM
   Vancomycin - [**2144-1-21**] 12:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-21**] 06:10 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-1-21**] 08:00 AM
   Furosemide (Lasix) - [**2144-1-21**] 12:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-22**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 52 (45 - 65) bpm
   BP: 103/55(71) {96/39(56) - 128/68(84)} mmHg
   RR: 23 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 87.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                    754 mL
                                                                     35 mL
   PO:
             TF:
   IVF:
                                                                    754 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    620 mL
   Urine:
                                                                  2,360 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,606 mL
                                                                   -585 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.44/52/67/33/9
   PaO2 / FiO2: 134
   Physical Examination
   General: Alert, oriented. No respiratory distress. Comfortable.
   Conversant.
   HEENT: Sclera anicteric, MMM
   Neck: Supple, no LAD
   Lungs: Bibasilar crackles, occasional wheeze bilaterally
   CV: RRR, S1 with loud P2 and splitting, R sided impulse present
   Abdomen: +BS, soft, ND, surgical midline incision clean with continued
   serosanguinous drainage at inferior aspect.  No rebound, no guarding,
   mild tenderness to palpation around incision which is stable.
   Ext: Warm, well perfused; 2+ DP pulses, trace bilateral LE edema,
   sacral edema, with some abdominal wall edema.
   Neuro: AOx3, CN II-XII grossly intact
   Labs / Radiology
   571 K/uL
   9.1 g/dL
   117 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.2 mEq/L
   31 mg/dL
   95 mEq/L
   137 mEq/L
   27.9 %
   10.6 K/uL
        [image002.jpg]
                             [**2144-1-19**]  08:56 AM
                             [**2144-1-19**]  04:48 PM
                             [**2144-1-20**]  03:46 AM
                             [**2144-1-20**]  04:06 AM
                             [**2144-1-20**]  04:25 PM
                             [**2144-1-20**]  06:00 PM
                             [**2144-1-21**]  05:49 AM
                             [**2144-1-21**]  04:48 PM
                             [**2144-1-22**]  02:58 AM
                             [**2144-1-22**]  03:21 AM
   WBC
   7.6
   9.5
   10.6
   Hct
   30.0
   28.1
   27.9
   Plt
   742
   591
   571
   Cr
   1.3
   1.5
   1.5
   1.6
   1.6
   1.5
   TCO2
   35
   34
   36
   Glucose
   158
   172
   158
   157
   150
   118
   166
   117
   Other labs: PT / PTT / INR:21.7/33.9/2.0, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:20/16, Alk Phos / T Bili:68/0.6,
   Amylase / Lipase:/22, Differential-Neuts:91.0 %, Lymph:5.2 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:203 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   - [**1-22**] Vancomycin trough
 Pending
   - Blood cultures 1/16, [**1-19**], [**1-20**]
 Preliminary, no growth to date
   - [**1-22**] CXR
 None pending
   - [**1-21**] CXR
 In comparison with the study of [**1-20**], there are areas of
   increased opacification at both bases. Although some of this could
   represent atelectasis, the possibility of bilateral pneumonia must be
   seriously considered. The costophrenic angles remain somewhat blunted.
   PICC line extends to at least the cavoatrial junction and possibly into
   the right atrium itself.
   Assessment and Plan
   41M with severe pulmonary hypertension, history of PE, diastolic CHF,
   and PFO closure, initially admitted to OSH for strangulated hernia, now
   readmitted to MICU for fever, hypoxia, and respiratory distress.
   .
   # Respiratory distress, hypoxia.  Patient continuing to improve despite
   episode of desaturation overnight (has had such episodes before).
   Patient with poor baseline respiratory status presumably related to
   pulmonary hypertension, heart failure, chronic PE. Etiology unclear
   which led to decompensation on the floor. Pneumonia possible given
   fever, recent cessation of antibiotics, however no white count, has not
   continued to spike. Fluid overload also possible given poor response to
   80mg IV lasix on the floor. New PE also a possibility. BNP elevated.
   - Treatment for HAP as below.
   - Lasix 20mg [**Hospital1 **] and re-assess UOP
   - Consider diamox prn for metabolic alkalosis
   - Continue high O2 support to minimize hypoxic
   vasoconstriction/pulmonary hypertension
   - Discuss RHC further on rounds tomorrow, [**1-22**]
   .
   # Fever. Afebrile. s/p recent 8 day course (finished [**1-16**]) of vanc and
   zosyn for HAP.  Denies symptoms of aspiration. Urinalysis negative.
   Abdominal ultrasound with complex paramedian fluid collections; surgery
   has seen patient and notes unlikely infection. C. Diff negative.
   Influenza DFA negative.
   - Appreciate surgery recommendations
   - Continue vanc/zosyn
   - Follow vancomycin trough
   - Follow blood cultures; low threshold to d/c PICC
   - Sputum culture; consider induction given concern for recurrence if
   can't produce
   - Recheck C. Diff if diarrhea
   .
   # ARF. Worsening creatinine over past 2 days likely related with
   increased lasix gtt and possible component preload secondary to reduced
   volume.
   - Discontinue lasix gtt
   - Lasix 20mg [**Hospital1 **] and re-assess UOP
   .
   # Pulmonary hypertension.  Had elevated mPAPs with PFO closure 6 months
   ago, now likely worse since PFO closure.  Differential includes chronic
   thromboembolic (but no large clot seen on CTA), L to R shunting from
   PFO, idiopathic PAH, diastolic heart failure/L atrial overload.
   Currently with class IV symptoms.  On sildenafil (started at OSH). INR
   therapeutic at this time. Will not do swan cath at this time.
   - Continue sildenafil
   - Discuss RHC further on rounds tomorrow, [**1-22**]
   - Start heparin when INR < 2; hold on coumadin at this time pending
   RHC/procedures
   - Continue high O2 support to minimize hypoxic
   vasoconstriction/pulmonary hypertension
   .
   # Atrial flutter. s/p cardioversion at outside hospital.  Had episode
   of repeat atrial flutter with RVR when sotalol was decreased. Currently
   anticoagulated.
   - Start heparin when INR < 2; hold on coumadin at this time pending
   RHC/procedures
   .
   # Prolonged QT: Most likely secondary to Ciprofloxacin which was
   recently started. Sotalol also may be contributing. QT 438 on [**1-20**] EKG.
   - Continue to follow
   - Obtain EKG tomorrow AM
   .
   # Chronic PE: Supratherapeutic INR. Will hold lovenox given worsening
   renal function. Will allow INR to fall with hopes for RHC in near
   future.
   - Monitor INR
   - Start heparin when INR < 2; hold on coumadin at this time pending
   RHC/procedures
   .
   # Thrombocytosis.  Likely related to acute infection plus post op.
   Stable to improving.
   - Continue to monitor
   .
   # s/p strangulated hernia repair.  No significant change in pain.
   Having bowel movements.
   - Continue daily dressing changes, wound care
   - Continue pain control prn
   - Appreciate surgery recommendations
   .
   # Type II DM.
   - Continue sliding scale.
   .
   # GERD.
   - Continue PPI.
   .
   # FEN: No IVF, replete electrolytes, regular DM/low Na; NPO for
   possible procedure
   # Prophylaxis: Pneumoboots, heparin when INR < 2
   # Access: PICC
   # Communication: Patient, patient
s father/mother
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement; need to discuss with
   case management re: pulmonary rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-1-11**] 10:52 AM
   Arterial Line - [**2144-1-19**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-22 11:08:00 Physician Attending Progress Note
Chief Complaint: Pulmonary HTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM --> feels well
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-1-20**] 04:00 AM
   Vancomycin - [**2144-1-21**] 12:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-21**] 06:10 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-1-21**] 12:05 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-1-22**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 51 (45 - 65) bpm
   BP: 118/68(86) {96/39(56) - 128/68(86)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                    754 mL
                                                                     55 mL
   PO:
             TF:
   IVF:
                                                                    754 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    770 mL
   Urine:
                                                                  2,360 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,606 mL
                                                                   -715 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.44/52/67/33/9
   PaO2 / FiO2: 84
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   9.1 g/dL
   571 K/uL
   117 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.2 mEq/L
   31 mg/dL
   95 mEq/L
   137 mEq/L
   27.9 %
   10.6 K/uL
         [image002.jpg]
                             [**2144-1-19**]  08:56 AM
                             [**2144-1-19**]  04:48 PM
                             [**2144-1-20**]  03:46 AM
                             [**2144-1-20**]  04:06 AM
                             [**2144-1-20**]  04:25 PM
                             [**2144-1-20**]  06:00 PM
                             [**2144-1-21**]  05:49 AM
                             [**2144-1-21**]  04:48 PM
                             [**2144-1-22**]  02:58 AM
                             [**2144-1-22**]  03:21 AM
   WBC
   7.6
   9.5
   10.6
   Hct
   30.0
   28.1
   27.9
   Plt
   742
   591
   571
   Cr
   1.3
   1.5
   1.5
   1.6
   1.6
   1.5
   TCO2
   35
   34
   36
   Glucose
   158
   172
   158
   157
   150
   118
   166
   117
   Other labs: PT / PTT / INR:21.7/33.9/2.0, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:20/16, Alk Phos / T Bili:68/0.6,
   Amylase / Lipase:/22, Differential-Neuts:91.0 %, Lymph:5.2 %, Mono:2.6
   %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:203 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 .H/O HERNIA, OTHER
 COAGULOPATHY
 EDEMA, PERIPHERAL
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   41M PFO / repair (approx 6 mos ago) found to have PA mean 47mm Hg on
   RHC, known h/o multiple DVT so presumed CTEPHTN. This hospitalization
   p/w strangulated hernia s/p hernia repair c/b a flutter and
   cardioversion, slow vent wean, ongoing hypoxemia / respiratory
   distress. Diuresed. CTA showed CTEPHTN, though small, subsegmental
   thrombi. Atrial flutter with sotalol dose reduction - back on stable
   dose.  Left MICU [**1-15**], readmitted overnight [**1-18**].
   1. Respiratory Failure: Doing better - able to tolerate nasal cannula
   for extended periods.  Conversive and comfortable appearing.  Cont
   Lasix 20mg iv BID --> Cr down slightly today.  Cont sildenafil.  Hold
   off on PA cath for now.
   2. Chronic PEs: Restart Coumadin
   3. Fevers: Cont vanc/zosyn -> 8 day course
   4.A-flutter: Cont sotolol --> has HR in 50s, monitor
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-1-11**] 10:52 AM
   Arterial Line - [**2144-1-19**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: